* D:\academic\AUC\Fall 2023\microelectronics\project\odd_parity_checker_spice\3_INPUT_ODD_PARITY.asc
M2 N012 N004 N008 N008 PMOS
M3 N012 N006 N009 N009 PMOS
M4 N013 N004 N010 N010 PMOS
M7 N008 N003 N001 N001 PMOS
M8 N009 N002 N001 N001 PMOS
M9 N010 N002 N001 N001 PMOS
M10 N013 N006 N011 N011 PMOS
M11 N011 N003 N001 N001 PMOS
M15 N014 N003 N015 N015 NMOS
M16 N014 N004 N015 N015 NMOS
V1 N001 0 1.8
M21 N003 N002 N001 N001 PMOS
M22 N003 N002 0 0 NMOS
M23 N006 N004 N001 N001 PMOS
M24 N006 N004 0 0 NMOS
M25 N007 N005 N001 N001 PMOS
M26 N007 N005 0 0 NMOS
M1 N015 N002 N016 N016 NMOS
M5 N015 N006 N016 N016 NMOS
M6 N014 N005 N016 N016 NMOS
M17 N016 N004 N017 N017 NMOS
M18 N017 N003 0 0 NMOS
M19 N017 N006 0 0 NMOS
M14 N016 N002 N017 N017 NMOS
M27 N016 N007 0 0 NMOS
V2 N002 0 1.8
V3 N005 0 1.8
V4 N004 0 1.8
M13 N014 N005 N012 N012 PMOS
M29 N014 N007 N013 N013 PMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ahmed\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 5
.backanno
.end
